US04410536
1,9-Diethyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 36, from 8.0 g of 3-ethyl-5-hydrazinobenzothiophene hydrochloride and 6.0 g of 1-ethyl-4-piperidone, by cyclisation under the influence of heat at 165°-170° C. in ethylene glycol for 3 hours.

reactant | 3-ethyl-5-hydrazinobenzothiophene hydrochloride | 8.0 g | Cl.C(C)C1=CSC2=C1C=C(C=C2)NN
reactant | 1-ethyl-4-piperidone | 6.0 g | C(C)N1CCC(CC1)=O | C7H13NO
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1,9-Diethyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(C)C1=CSC=2C1=C1C3=C(NC1=CC2)CCN(C3)CC | C17H20N2S
